US07531532B2
4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [6-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]amide
After suspending a crude product of 4-(pyrrolidin-1-yl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide (88.4 mg) in ethanol (3 ml), D-10-camphorsulfonic acid (51.3 mg) was added and the mixture was stirred for 5 minutes. A 0.2 M solution of 2-(4-fluorophenyl)acetyl isothiocyanate in toluene (1.3 ml) was added thereto and the mixture was stirred for 62 hours. Ethyl acetate (30 ml) and saturated aqueous sodium hydrogencarbonate (20 ml) were added to the reaction mixture for partition, and then the organic layer was washed with saturated aqueous sodium hydrogencarbonate (20 ml), water (20 ml) and brine (20 ml) and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and then the resultant residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; heptane:ethyl acetate=1:9). Fractions containing the target compound were concentrated, and then diethyl ether (1 ml) and hexane (1.5 ml) were added to the resultant residue to produce a suspension. After filtering the solid, it was subjected to aeration drying to provide the title compound (44.7 mg, 34%) as pale pink powder.

reactant | 4-(pyrrolidin-1-yl)piperidine-1-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 88.4 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)N2CCCC2)C=C1)F | C20H25FN6O2
reactant | D-10-camphorsulfonic acid | 51.3 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | 2-(4-fluorophenyl)acetyl isothiocyanate | FC1=CC=C(C=C1)CC(=O)N=C=S | C9H6FNOS
reactant | sodium hydrogencarbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | toluene | 1.3 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [6-(2-fluoro-4-{3-[2-(4-fluorophenyl)acetyl]thioureido}phenoxy)pyrimidin-4-yl]amide | 44.7 mg, 34% | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)N2CCCC2)C=CC(=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O | C29H31F2N7O3S
